US07495003B2
1-(naphth-1-ylmethyl)-7-(but-2-ynyl)-8-(3-tert-butoxycarbonylamino-piperidin-1-yl)-xanthine
0.5 g triphosgene and 1.4 ml triethylamine are added successively to an ice-cooled solution of 2.0 g of ethyl 5-amino-2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-3-(but-2-ynyl)-3H-imidazole-4-carboxylate in 35 ml dry 1,2-dimethoxyethane. After 2 h stirring at ambient temperature 0.76 ml naphth-1-ylmethylamine and a further 35 ml dry 1,2-dimethoxyethane are added. The reaction solution is stirred for a further 14 h at ambient temperature. Then the solution is evaporated down to approx. 20 ml and diluted with 150 ml dichloromethane. The organic phase is washed with 1 M hydrochloric acid and with aqueous sodium hydrogen carbonate solution and then dried over sodium sulphate. After the solvent has been eliminated the residue is dissolved in 100 ml of ethanol and combined with 0.41 g sodium ethoxide. The solution is stirred for 4 h at 60° C. After cooling to ambient temperature the reaction solution is neutralised with 1 M hydrochloric acid and the ethanol is evaporated off. Water is added and the precipitate is separated off, washed with ether and dried at 60° C.

reactant | triphosgene | 0.5 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 5-amino-2-(3-tert-butoxycarbonylamino-piperidin-1-yl)-3-(but-2-ynyl)-3H-imidazole-4-carboxylate | 2.0 g | NC1=C(N(C(=N1)N1CC(CCC1)NC(=O)OC(C)(C)C)CC#CC)C(=O)OCC | C20H31N5O4
reactant | naphth-1-ylmethylamine | 0.76 ml | C1(=CC=CC2=CC=CC=C12)CN | C11H11N
solvent | 1,2-dimethoxyethane | 35 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 35 ml | COCCOC | C4H10O2
product | 1-(naphth-1-ylmethyl)-7-(but-2-ynyl)-8-(3-tert-butoxycarbonylamino-piperidin-1-yl)-xanthine | C1(=CC=CC2=CC=CC=C12)CN1C(=O)NC=2N=C(N(C2C1=O)CC#CC)N1CC(CCC1)NC(=O)OC(C)(C)C | C30H34N6O4
